US08748613B2
PS-DCC (loading: 1.25 mmol/g; 0.93 g, 1.16 mmol) was suspended in dry THF (11.6 ml) and HOBT (0.18 g, 1.16 mmol), 2-morpholino-2-phenylacetic acid hydrochloride (0.15 g, 0.58 mmol) and (R)-quinuclidin-3-ol (0.22 g, 1.75 mmol) were sequentially added. The mixture was shaken overnight and then PS-DCC was filtered off washing with EtOAc and THF. The solution was evaporated and the residue was dissolved in EtOAc (30 ml) and washed with water and then with a sat. NaHCO3. The organic phase was dried (Na2SO4), filtered and evaporated. The crude was purified by flash chromatography (DCM/MeOH=95/5 to 85/15) to obtain (R)-quinuclidin-3-yl 2-morpholino-2-phenylacetate (45 mg, 23.4% yield) as a colorless oil.

reactant | DCC | 1.16 mmol, 0.93 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBT | 1.16 mmol, 0.18 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-morpholino-2-phenylacetic acid hydrochloride | 0.58 mmol, 0.15 g | Cl.O1CCN(CC1)C(C(=O)O)C1=CC=CC=C1
reactant | (R)-quinuclidin-3-ol | 1.75 mmol, 0.22 g | N12C[C@@H](C(CC1)CC2)O | C7H13NO
solvent | THF | 11.6 ml | C1CCOC1 | C4H8O
product | (R)-quinuclidin-3-yl 2-morpholino-2-phenylacetate | 45 mg, 23.4% yield | O1CCN(CC1)C(C(=O)O[C@H]1CN2CCC1CC2)C2=CC=CC=C2 | C19H26N2O3
